US07459453B2
Ethyl 4-benzoyl-5-hydroxyisoxazole-3-carboxylate
To a cooled and stirred solution of sodium ethoxide, obtained from sodium (2.3 g, 0.1 mol) and anhydrous EtOH (60 ml), a solution of ethyl benzoylacetate (9.6 g, 0.05 mol) in the same solvent (5 ml) was slowly added. A solution of ethylcloro(hydroximino)acetate (7.55 g, 0.05 mol) in anhydrous EtOH (10 ml) was added in a dropwise manner (over 1 h period). The mixture was neutralized with 6N HCl and the alcoholic layer was evaporated. After dilution with cold water (150-200 mL), the suspension was extracted with ethyl ether and the aqueous layer was acidified with 6N HCl to afford the product which was recovered by filtration (45% yield).

reactant | ethyl benzoylacetate | 0.05 mol, 9.6 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | ethylcloro(hydroximino)acetate | 0.05 mol, 7.55 g | C(C)OC(C(=NO)Cl)=O | C4H6ClNO3
reactant | HCl | 6N | Cl | ClH
solvent | EtOH | 10 ml | CCO | C2H6O
product | Ethyl 4-benzoyl-5-hydroxyisoxazole-3-carboxylate | C(C1=CC=CC=C1)(=O)C=1C(=NOC1O)C(=O)OCC | C13H11NO5
